US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-ethoxycarbonylaniline
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-ethoxycarbonylnitrobenzene (5.0 g) in methanol (75 ml) was added palladium on carbon (0.5 g) and the mixture was stirred under a hydrogen atmosphere at room temperature for 2.5 hours. The reaction mixture was filtered and the filtrate concentrated in vacuo to give the desired compound (4.6 g, yield 99%) as a gray oil.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-ethoxycarbonylnitrobenzene | 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)OCC | C19H26N2O7
solvent | methanol | 75 ml | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-ethoxycarbonylaniline | 4.6 g, yield 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(N)C=C1)C(=O)OCC | C19H28N2O5
